US05665756
4-[4-(4-Fluorobenzoyl)-1-piperidinyl]-1-phenyl-1-butanone O-(2-aminoethyl)oxime dihydrochloride
A mixture of 4-[4-(4-fluorobenzoyl)-1-piperdinyl]-1-phenyl-1-butanone (5.00 g), O-(2-aminoethyl)hydroxylamine dihydrochloride (2.21 g), 3 equivalents of pyridine, and absolute ethanol (75 ml) was stirred at 60° C., overnight, under nitrogen. The reaction mixture was evaporated, toluene was added and evaporated. The reaction mixture was partitioned between 10% sodium hydroxide solution and ethyl acetate. The layers were separated and the aqueous phase extracted with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate, filtered, and the filtrate was evaporated. The residue was purified by flash chromatography (180:19:1 dichloromethane/methanol/ammonium hydroxide). The appropriate fractions were collected and evaporated. The residue was dissolved in absolute ethanol and treated with ethereal hydrogen chloride. Diethyl ether was added. The precipitate was collected and recrystallized twice from absolute ethanol/ether to give 2.3 g (34%) of product, mp 110°-115° C. (dec).

reactant | 4-[4-(4-fluorobenzoyl)-1-piperdinyl]-1-phenyl-1-butanone | 5.00 g | FC1=CC=C(C(=O)C2CCN(CC2)CCCC(=O)C2=CC=CC=C2)C=C1 | C22H24FNO2
reactant | O-(2-aminoethyl)hydroxylamine dihydrochloride | 2.21 g | Cl.Cl.NCCON
reactant | pyridine | 3 equivalents | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4-[4-(4-Fluorobenzoyl)-1-piperidinyl]-1-phenyl-1-butanone O-(2-aminoethyl)oxime dihydrochloride | 2.3 g, 34% | Cl.Cl.NCCON=C(CCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)C1=CC=CC=C1 | InChI=1S/C24H30FN3O2.2ClH/c25-22-10-8-20(9-11-22)24(29)21-12-16-28(17-13-21)15-4-7-23(27-30-18-14-26)19-5-2-1-3-6-19;;/h1-3,5-6,8-11,21H,4,7,12-18,26H2;2*1H
